US08124768B2
Preparation 12B: 4-(3-(4-(2-(Benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl 1-tert-butyl piperidine-1,4-dicarboxylate
A mixture of N-(4-(2-(benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenyl)-5-(4-fluorophenyl)-4-oxo-1,4-dihydropyridine-3-carboxamide (120 mg, 0.189 mmol), K2CO3 (104 mg, 0.756 mmol) and 1-tert-butyl 4-chloromethyl piperidine-1,4-dicarboxylate (157 mg, 0.567 mmol) in DMF (2 mL) was stirred at rt for 3 h. The reaction mixture was then diluted with DCM and the solid that formed was filtered off. The residue was washed with sat. aq. KH2PO4 solution. The organic layer was dried over MgSO4 and the desired product was purified by flash column chromatography (SiO2, eluting with a DCM/EtOAc gradient) to give the desired compound (145 mg) as a white solid. MS (ESI+) m/z 876 (M+H)+.

reactant | N-(4-(2-(benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenyl)-5-(4-fluorophenyl)-4-oxo-1,4-dihydropyridine-3-carboxamide | 0.189 mmol, 120 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NC=CC(=C1Cl)OC1=C(C=C(C=C1)NC(=O)C1=CNC=C(C1=O)C1=CC=C(C=C1)F)F | C36H25ClF2N4O3
reactant | K2CO3 | 0.756 mmol, 104 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-tert-butyl 4-chloromethyl piperidine-1,4-dicarboxylate | 0.567 mmol, 157 mg | N1(CCC(CC1)C(=O)OCCl)C(=O)OC(C)(C)C | C12H20ClNO4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(3-(4-(2-(Benzhydrylamino)-3-chloropyridin-4-yloxy)-3-fluorophenylcarbamoyl)-5-(4-fluorophenyl)-4-oxopyridin-1(4H)-yl)methyl 1-tert-butyl piperidine-1,4-dicarboxylate | 145 mg | N1(CCC(CC1)C(=O)OCN1C=C(C(C(=C1)C1=CC=C(C=C1)F)=O)C(NC1=CC(=C(C=C1)OC1=C(C(=NC=C1)NC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)F)=O)C(=O)OC(C)(C)C | C48H44ClF2N5O7
